US08314094B2
1) Synthesis of N-{[6-cyano-1-(4-methoxybenzyl)-2-oxo-4-(trifluoromethyl)-1,4-dihydro-2H-3,1-benzoxazin-4-yl]methyl}-4-fluorobenzamide
A solution of N-{[6-bromo-1-(4-methoxybenzyl)-2-oxo-4-(trifluoromethyl)-1,4-dihydro-2H-3,1-benzoxazin-4-yl]methyl}-4-fluorobenzamide (1.0 g, 1.76 mmol), zinc cyanide (414 mg, 3.53 mmol) and tetrakis(triphenyl phosphine)palladium (102 mg, 0.088 mmol) in DMF (4.5 mL) was stirred at 100° C. for 3 hours. The temperature of the solution was brought to room temperature and the solution was diluted with ethyl acetate, which was washed sequentially with an aqueous citric acid solution and saturated brine and then dried over magnesium sulfate. After the drying agent was removed by filtration, the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane=1/1), whereby the objective compound (873 mg, 96%) was obtained as a white solid.

reactant | N-{[6-bromo-1-(4-methoxybenzyl)-2-oxo-4-(trifluoromethyl)-1,4-dihydro-2H-3,1-benzoxazin-4-yl]methyl}-4-fluorobenzamide | 1.76 mmol, 1.0 g | BrC=1C=CC2=C(C(OC(N2CC2=CC=C(C=C2)OC)=O)(C(F)(F)F)CNC(C2=CC=C(C=C2)F)=O)C1 | C25H19BrF4N2O4
reactant | DMF | 4.5 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | zinc cyanide | 3.53 mmol, 414 mg | [C-]#N.[Zn+2].[C-]#N
product | N-{[6-cyano-1-(4-methoxybenzyl)-2-oxo-4-(trifluoromethyl)-1,4-dihydro-2H-3,1-benzoxazin-4-yl]methyl}-4-fluorobenzamide | C(#N)C=1C=CC2=C(C(OC(N2CC2=CC=C(C=C2)OC)=O)(C(F)(F)F)CNC(C2=CC=C(C=C2)F)=O)C1 | C26H19F4N3O4
